US03940394
(4-Chloro-6-(p-chloroanilino)-2-pyrimidinylthio)acetic acid ethyl ester
A stirred mixture of 8.0 g of (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester, 3.8 g of p-chloroaniline and 3.2 g of sodium carbonate in 100 ml. of ethanol was heated under reflux for 5 hr. The reaction mixture was filtered and water was added to the filtrate until precipitation resulted. Recrystallization of this material from 95% ethanol afforded 3.0 g of product, mp. 109°-112°C.

reactant | (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester | 8.0 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)Cl)=O | C8H8Cl2N2O2S
reactant | p-chloroaniline | 3.8 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium carbonate | 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | (4-Chloro-6-(p-chloroanilino)-2-pyrimidinylthio)acetic acid ethyl ester | 3.0 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)NC1=CC=C(C=C1)Cl)=O | C14H13Cl2N3O2S
